US04692438
A solution of 8.2 g of tert.butyl 1-[5-(ethoxycarbonyl)-5-hexenoyl]-hexahydro-3-(S)-pyridazinecarboxylate in 25 ml of ethanol was treated with 23.7 ml of 1N aqueous sodium hydroxide solution for 16 hours. The solution was diluted with 80 ml of water and the volume was then reduced to 80 ml by evaporation. The solution was washed with diethyl ether and the pH of the aqueous solution was adjusted to 3 using 2N aqueous hydrochloric acid. The solution was then extracted with dichloromethane. The organic solution was evaporated and the residue was chromatographed on silica gel using dichloromethane/methanol (9:1) for the elution, whereby there were obtained 3.62 g of tert.butyl 1-[5-(carboxy)-5-hexenoyl]-hexahydro-3(S)-pyridazinecarboxylate in the form of a white solid of melting point 86°-88° C., from n-hexane.

reactant | tert.butyl 1-[5-(ethoxycarbonyl)-5-hexenoyl]-hexahydro-3-(S)-pyridazinecarboxylate | 8.2 g | C(C)OC(=O)C(CCCC(=O)N1N[C@@H](CCC1)C(=O)OC(C)(C)C)=C | C18H30N2O5
reactant | sodium hydroxide | 1N, 23.7 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | tert.butyl 1-[5-(carboxy)-5-hexenoyl]-hexahydro-3(S)-pyridazinecarboxylate | 3.62 g | C(=O)(O)C(CCCC(=O)N1N[C@@H](CCC1)C(=O)OC(C)(C)C)=C | C16H26N2O5
